US08044061B2
A mixture of 0.1 mmol of 8-(3-hydroxyphenylethynyl)-3,7-dimethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione and 0.5 mL acetic anhydride was heated under reflux for 15 min. Subsequently the mixture was hydrolyzed with concentrated NaHCO3-solution (50 mL) and the product was extracted with dichloromethane. The organic extracts were dried over MgSO4 and filtered and concentrated under vacuum. The crystalline residue was treated with ether and filtered under reduced pressure yielding 8-(3-acetoxyphenylethynyl)-3,7-dimethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione: colorless crystals (yield >95%), m.p. 238° C.

reactant | 8-(3-hydroxyphenylethynyl)-3,7-dimethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione | 0.1 mmol | OC=1C=C(C=CC1)C#CC1=NC=2N(C(N(C(C2N1C)=O)CC#C)=O)C | C18H14N4O3
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | 8-(3-acetoxyphenylethynyl)-3,7-dimethyl-1-prop-2-ynyl-3,7-dihydropurine-2,6-dione | C(C)(=O)OC=1C=C(C=CC1)C#CC1=NC=2N(C(N(C(C2N1C)=O)CC#C)=O)C | C20H16N4O4
